US07053114B2
Hydrazine hydrate (55%, 3000 mL) and 5-fluoroisatin (300 g) were heated to 100° C. An additional 5-fluoro-isatin (500 g) was added in portions (100 g) over 120 minutes with stirring. The mixture was heated to 110° C. and stirred for 4 hours. The mixture was cooled to room temperature and the solids collected by vacuum filtration to give crude (2-amino-5-fluoro-phenyl)-acetic acid hydrazide (748 g). The hydrazide was suspended in water (700 mL) and the pH of the mixture adjusted to <pH 3 with 12 N hydrochloric acid. The mixture was stirred for 12 hours at room temperature. The solids were collected by vacuum filtration and washed twice with water. The product was dried under vacuum to give 5-fluoro-1,3-dihydro-indol-2-one (600 g, 73% yield) as a brown powder.

reactant | 5-fluoroisatin | 300 g | FC=1C=C2C(C(NC2=CC1)=O)=O | C8H4FNO2
reactant | 5-fluoro-isatin | 500 g | FC=1C=C2C(C(NC2=CC1)=O)=O | C8H4FNO2
reactant | Hydrazine hydrate | 3000 mL | O.NN
product | (2-amino-5-fluoro-phenyl)-acetic acid hydrazide | 748 g | NC1=C(C=C(C=C1)F)CC(=O)NN | C8H10FN3O
